US06235731B1
To a solution of 5.13 g (20.7 mM) of ethyl 3,4-dihydro-5-thia-1,8b-diazaacenaphthylene-4-carboxylate in ethanol (20 ml) was added 12 ml (24 mM) of 2N-aqueous solution of sodium hydroxide at room temperature and the mixture was stirred for 1 hour. To this reaction mixture was added 4 ml (24 mM) of 6N-hydrochloric acid and the resulting crystals were collected by filtration. This crystal crop was rinsed with ethanol and diethyl ether to provide 3,4-dihydro-5-thia-1,8b-diazaacenaphthylene-4-carboxylic acid as light-brown crystals. This carboxylic acid was not purified but used as it was in the next reaction. To 2.2 ml (30.0 mM) of thionyl chloride was added 661 mg (3.0 mM) of the above 3,4-dihydro-5-thia-1,8b-diazaacenaphthylene-4-carboxylic acid and the mixture was heated at 60° C. for 1 hour. Then, the excess thionyl chloride was distilled off under reduced pressure and 10 ml of toluene was added to the residue. After thorough mixing, the solvent was distilled off under reduced pressure to provide 3,4-dihydro-5-thia-1,8b-diazaacenaphthylene-4-carboxylic acid chloride hydrochloride. To a solution of this acid chloride in 30 ml of THF was added 2.5 ml (40.0 mM) of triethylamine as well as 1286 mg (6.0 mM) of 1-(tert-butoxycarbonyl)-4-aminomethylpiperidine at 0° C. and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was then poured in 50 ml of iced water and extracted with 100 ml of ethyl acetate. The organic layer was washed with 100 ml of saturated aqueous solution of sodium chloride and dried over MgSO4 and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate/ethanol=10/1) to provide 801 mg (yield 64.1%) of the title compound as brown amorphous substance.

reactant | thionyl chloride | 30.0 mM, 2.2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3,4-dihydro-5-thia-1,8b-diazaacenaphthylene-4-carboxylic acid | 3.0 mM, 661 mg | N=1C=C2CC(SC3=CC=CC1N23)C(=O)O | C10H8N2O2S
product | 3,4-dihydro-5-thia-1,8b-diazaacenaphthylene-4-carboxylic acid chloride hydrochloride | Cl.N=1C=C2CC(SC3=CC=CC1N23)C(=O)Cl | InChI=1S/C10H7ClN2OS.ClH/c11-10(14)7-4-6-5-12-8-2-1-3-9(15-7)13(6)8;/h1-3,5,7H,4H2;1H
